US05387685
2-[6-(Cyclohexylthio)-6-(3,4-dimethoxyphenyl)hexyl]-1,2,3,4-tetrahydro-6,7-dimethoxyisoquinoline
A mixture of 0.959 g of 2-[6-(cyclohexylthio)-6-(3,4-dimethoxyphenyl)-1-oxohexyl]-1,2,3,4-tetrahydro-6,7-dimethoxyisoquinoline and 0.35 mL of borane-methylsulfide complex (10M) in 10 mL of tetrahydrofuran is heated under reflux for 2 hour, cooled and quenched with methyl alcohol. The volatiles are removed in vacuo. The residue is taken up in 10 mL of ethyl alcohol, 8 mL of 1N sodium hydroxide is added and the resulting mixture is heated under reflux for 2 hours. The solution is cooled, diluted with water and extrated with ethyl acetate. The ethyl acetate extract is washed with brine, dried and filtered. The filtrate is evaporated to yield an oil. This oil is purified by flash chromatography using 2% methyl alcohol in methylene chloride affording 0.71 g of the desired product as a light yellow oil.

reactant | 2-[6-(cyclohexylthio)-6-(3,4-dimethoxyphenyl)-1-oxohexyl]-1,2,3,4-tetrahydro-6,7-dimethoxyisoquinoline | 0.959 g | C1(CCCCC1)SC(CCCCC(=O)N1CC2=CC(=C(C=C2CC1)OC)OC)C1=CC(=C(C=C1)OC)OC | C31H43NO5S
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 2-[6-(Cyclohexylthio)-6-(3,4-dimethoxyphenyl)hexyl]-1,2,3,4-tetrahydro-6,7-dimethoxyisoquinoline | C1(CCCCC1)SC(CCCCCN1CC2=CC(=C(C=C2CC1)OC)OC)C1=CC(=C(C=C1)OC)OC | C31H45NO4S
